NMOS test 2
*#SIMETRIX
V1 V1_P 0 10
V2 R2_P 0 {v2dc} AC 1 0
R1 R1_P V1_P 1K
R2 R2_P R2_N 100
X$Q1 0 R1_P R2_N GaN_PSpice_GS66508T_L1V4P1
.AC PARAM=v2dc LIN 10 1u 10 F=0
*.DC V2 0 1k 5
.options optimise=0







